US06297269B1
(1R,2S)-[2-Amino-1-(methoxy-methyl-carbamoyl)-3-phenyl-propoxy]-acetic acid benzyl ester hydrochloride
(1R,2S)-[2-tert-Butoxycarbonylamino-1-(methoxy-methyl-carbamoyl)-3-phenyl-propoxy]-acetic acid benzyl ester (170 mg, 0.35 mmol) was dissolved in 4N HCl-dioxane (2 mL) for 1.5 hours at 25° C., concentrated, the residue coevaporated with ether and dried giving an oil (163 mg). MS 387 (MH+, 100%).

reactant | (1R,2S)-[2-tert-Butoxycarbonylamino-1-(methoxy-methyl-carbamoyl)-3-phenyl-propoxy]-acetic acid benzyl ester | 0.35 mmol, 170 mg | C(C1=CC=CC=C1)OC(CO[C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(N(C)OC)=O)=O | C26H34N2O7
reactant | HCl dioxane | 4N, 2 mL | Cl.O1CCOCC1
product | (1R,2S)-[2-Amino-1-(methoxy-methyl-carbamoyl)-3-phenyl-propoxy]-acetic acid benzyl ester hydrochloride | 163 mg | Cl.C(C1=CC=CC=C1)OC(CO[C@H]([C@H](CC1=CC=CC=C1)N)C(N(C)OC)=O)=O | InChI=1S/C21H26N2O5.ClH/c1-23(26-2)21(25)20(18(22)13-16-9-5-3-6-10-16)28-15-19(24)27-14-17-11-7-4-8-12-17;/h3-12,18,20H,13-15,22H2,1-2H3;1H/t18-,20+;/m0./s1
